US04107326
1-Benzyl-3-(2,6-dichlorobenzylideneamino)guanidine
A solution of 11.7 g. of methyl 3-(2,6-dichlorobenzylidene)thiocarbazimidate hydroiodide (U.S. Pat. No. 3,657,337) and 3.37 g. of benzylamine in 25 ml. of ethanol is heated at reflux for 18 hours and then evaporated to dryness under reduced pressure. The residue is partitioned between 80 ml. of diethyl ether and 100 ml. of water and the aqueous extract is made alkaline with ammonia. A pale yellow solid is recovered by filtration and recrystallized from aqueous ethanol, giving the desired product as colorless crystals, m.p. 133°-135° C.

reactant | methyl 3-(2,6-dichlorobenzylidene)thiocarbazimidate hydroiodide | I.ClC1=C(C=NNC(SC)=N)C(=CC=C1)Cl
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
solvent | ethanol | C(C)O | C2H6O
product | 1-Benzyl-3-(2,6-dichlorobenzylideneamino)guanidine | C(C1=CC=CC=C1)NC(=N)NN=CC1=C(C=CC=C1Cl)Cl | C15H14Cl2N4
